US08471005B2
7-(2-Methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]: Into a 200 mL round bottom flask, Palladium Acetate (0.20 g, 0.00088 mol) and Triphenylphosphine (0.65 g, 0.0025 mol) were added. The mixture was purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (66.8 mL, 0.856 mol) was added and stirred for 10 minutes at room temperature. 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (2.150 g, 0.008807 mol), 2-methoxybenzeneboronic acid (2.68 g, 0.0176 mol), N,N-Dimethylformamide (130 mL, 1.7 mol), and 1.50 M of Sodium carbonate in Water (52.8 mL, 0.0793 mol) were added. The reaction was heated at 90° C. for 3 hours. The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine, and dried over magnesium sulfate. The solid was filtered and washed with EtOAc. The solvent was removed under vacuum. The desired product was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 3% methanol). The collected fractions afforded 7-(2-Methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (1.85 g, 78%). NMR 1H (DSMO-d6)-8.89 (s, 1H), 7.81 (dd, 1H, JJ=2.74, 6.01 Hz), 7.42 (td, 1H, JJ=1.68, 6.92 Hz), 7.07-7.25 (m, 4H), 3.81 (s, 3H), 2.43 (s, 3H)

reactant | Triphenylphosphine | 0.0025 mol, 0.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-Dioxane | 0.856 mol, 66.8 mL | O1CCOCC1 | C4H8O2
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.008807 mol, 2.150 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | 2-methoxybenzeneboronic acid | 0.0176 mol, 2.68 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | N,N-Dimethylformamide | 1.7 mol, 130 mL | CN(C=O)C | C3H7NO
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 0.0793 mol, 52.8 mL | O | H2O
catalyst | Palladium Acetate | 0.00088 mol, 0.20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-(2-Methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 1.85 g, 78% | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)SC | C14H13N3OS
